US04692464
1(n) (1R,5S,6S,7R)-7-Benzoyloxy-6-benzyloxymethylbicyclo[3,3,0]octan-3-one
A solution of 0.55 g. of the alcohol prepared according to Reference Example 1(m) in 4 ml. of pyridine is combined with 0.5 ml. of benzoyl chloride. The mixture is agitated for 4 hours at 25°, combined with 0.4 ml. of water, agitated for 2 hours, diluted with ether, and the mixture is shaken in succession with water, 5% sulfuric acid, water, 4% sodium bicarbonate solution, and three times with water. After drying over magnesium sulfate the mixture is evaporated under vacuum, thus obtaining 720 mg. of the benzoate as a colorless oil.

reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | benzoate | C(C1=CC=CC=C1)(=O)[O-]
reactant | ether | CCOCC | C4H10O
solvent | water | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (1R,5S,6S,7R)-7-Benzoyloxy-6-benzyloxymethylbicyclo[3,3,0]octan-3-one | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H]([C@H]2CC(C[C@H]2C1)=O)COCC1=CC=CC=C1 | C23H24O4
